US08030504B2
7-(Trifluoromethyl)-2,3-dihydroquinolin-4(1H)-one O-methyl oxime
Methoxylamine hydrochloride (4.14 g, 49.5 mmol) was added to a solution of Example 16C (9.69 g, 45.0 mmol) in pyridine (40 mL), and mixture was stirred overnight at ambient temperature. Only one regioisomer, 7-(trifluoromethyl)-2,3-dihydroquinolin-4(1H)-one was converted to the oxime. The mixture was concentrated under reduced pressure and ethyl acetate (300 mL) was added. The organic layer was washed twice with water (300 mL) and brine, dried over sodium sulfate, and concentrate under reduced pressure. The residue was chromatographed on silica gel eluting with 20-70% ethyl acetate in hexane to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.70 (t, J=6.61 Hz, 2H), 3.19 (td, J=6.53, 1.86 Hz, 2H), 3.90 (s, 3H), 6.57 (s, 1H), 6.82 (dd, J=8.14, 1.70 Hz, 1H), 6.97 (s, 1H), 7.79 (d, J=8.14 Hz, 1H). MS (DCI) m/z 245.05 (M+H)+.

reactant | Methoxylamine hydrochloride | 49.5 mmol, 4.14 g | Cl.O(C)N
reactant | 7-(trifluoromethyl)-2,3-dihydroquinolin-4(1H)-one | FC(C1=CC=C2C(CCNC2=C1)=O)(F)F | C10H8F3NO
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 7-(Trifluoromethyl)-2,3-dihydroquinolin-4(1H)-one O-methyl oxime | CON=C1CCNC2=CC(=CC=C12)C(F)(F)F | C11H11F3N2O
